US08748624B2
STEP B: ethyl 3-(5-(4,5-difluoro-2-(hydroxymethyl)phenyl)picolinamido)propanoate
(2-bromo-4,5-difluorophenyl)methanol (2.8 g, 12.5 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (4.8 g, 13.7 mmol), Pd(dppf)Cl2 (1.4 g, 1.9 mmol), and K2CO3 (3.4 g, 24.9 mmol) were dissolved in 1,4-dioxane (28 mL) and water (15 mL) and the resulting mixture was heated to 85° C. After 2 h the resulting mixture was diluted with EtOAc and the layers were separated. The organic layer was dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | (2-bromo-4,5-difluorophenyl)methanol | 12.5 mmol, 2.8 g | BrC1=C(C=C(C(=C1)F)F)CO | C7H5BrF2O
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 13.7 mmol, 4.8 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 24.9 mmol, 3.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 15 mL | O | H2O
solvent | 1,4-dioxane | 28 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.9 mmol, 1.4 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(4,5-difluoro-2-(hydroxymethyl)phenyl)picolinamido)propanoate | FC1=CC(=C(C=C1F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CO | C18H18F2N2O4
